US05081246
1-(N-Benzyloxycarbonyltyrosyl)-4-phenylpiperazine
12.3 g of N-benzyloxycarbonyltyrosine and 6.6 g of N-phenylpiperazine were dissolved in 150 ml of methylene chloride, and to the solution was added 8.4 g of DCC, and the mixture was stirred at a room temperature for 5 hours. Precipitated insoluble matter was filtered off and the filtrate was concentrated under a reduced pressure, and resulting residue was applied to a silica gel column and eluted with hexane/ethyl acetate (1:1 to 1:2) to obtain 10.5 g of the title compound in a colorless amorphous form.

reactant | N-benzyloxycarbonyltyrosine | 12.3 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)O | C17H17NO5
reactant | N-phenylpiperazine | 6.6 g | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | DCC | 8.4 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | 1-(N-Benzyloxycarbonyltyrosyl)-4-phenylpiperazine | 10.5 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)N1CCN(CC1)C1=CC=CC=C1 | C27H29N3O4
